US04648897
Preparation of (3-(2,6-dimethylphenylaminomethyl)-4-methyl-5-methylthio-1,2,4-triazole
To a stirred solution of 1.7 g (0.0419 mol) sodium hydroxide in 125 ml water was added in one portion, 10.4 g (0.0419 mol), 3-(2,6-dimethylphenylaminomethyl)-4-methyl-5-mercapto-1,2,4-triazole. After a homogeneous solution was obtained, 6.2 g (0.044 mol) methyl iodide was added dropwise. The reaction mixture was then diluted with 50 ml dichloromethane and vigorously stirred for 0.5 hour. The reaction mixture was diluted with another 100 ml dichloromethane and the organic layer was separated, dried over magnesium sulfate, filtered and evaporated under reduced pressure to give a solid residue. The solid was triturated with ethyl ether to give the product as a colorless solid. The product is tabulated in Table I as Compound No. 14-A.

reactant | sodium hydroxide | 0.0419 mol, 1.7 g | [OH-].[Na+]
reactant | 3-(2,6-dimethylphenylaminomethyl)-4-methyl-5-mercapto-1,2,4-triazole | CC1=C(C(=CC=C1)C)NCC1=NN=C(N1C)S | C12H16N4S
reactant | methyl iodide | 0.044 mol, 6.2 g | CI | CH3I
solvent | water | 125 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-(2,6-dimethylphenylaminomethyl)-4-methyl-5-methylthio-1,2,4-triazole | CC1=C(C(=CC=C1)C)NCC1=NN=C(N1C)SC | C13H18N4S
